US04031101
A stirred solution of 460 g. of cis-2,6-dimethylpiperidine in 300 ml. of xylene is treated with 278 g. of 3-bromopropanol over a period of 15 minutes. The mixture is stirred and heated at reflux for 2 hours, then allowed to cool while stirring for 16 hours. The mixture is filtered and the filtrate evaporated at reduced pressure. The residue is distilled at reduced pressure to give cis-2,6-dimethyl-1-piperidinepropanol; b.p. 147°-149° C./25 mm.

reactant | cis-2,6-dimethylpiperidine | C[C@@H]1N[C@@H](CCC1)C | C7H15N
reactant | 3-bromopropanol | BrCCCO | C3H7BrO
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | cis-2,6-dimethyl-1-piperidinepropanol | C[C@@H]1N([C@@H](CCC1)C)CCCO | C10H21NO
